US08114902B2
(14-1) Synthesis of N-(5-{2-[2′-fluoro-4′-(3-methoxyphenylthio)biphenyl-4-yl]ethyl}-2,2-dimethyl-1,3-dioxan-5-yl)acetamide
A solution of N-{5-[2-(4′-bromo-2′-fluorobiphenyl-4-yl)ethyl]-2,2-dimethyl-1,3-dioxan-5-yl}acetamide (225 mg) of Reference Example 10, 3-methoxybenzenethiol (70 mg), diisopropylethylamine (129 mg), tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (12.9 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos) (14.9 mg) in 1,4-dioxane (2 mL) was heated under reflux for 1 hr under a nitrogen atmosphere. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound (0.26 g) as yellow crystals.

reactant | N-{5-[2-(4′-bromo-2′-fluorobiphenyl-4-yl)ethyl]-2,2-dimethyl-1,3-dioxan-5-yl}acetamide | 225 mg | BrC1=CC(=C(C=C1)C1=CC=C(C=C1)CCC1(COC(OC1)(C)C)NC(C)=O)F | C22H25BrFNO3
reactant | 3-methoxybenzenethiol | 70 mg | COC=1C=C(C=CC1)S | C7H8OS
reactant | diisopropylethylamine | 129 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 12.9 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 14.9 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | N-(5-{2-[2′-fluoro-4′-(3-methoxyphenylthio)biphenyl-4-yl]ethyl}-2,2-dimethyl-1,3-dioxan-5-yl)acetamide | 0.26 g | FC1=C(C=CC(=C1)SC1=CC(=CC=C1)OC)C1=CC=C(C=C1)CCC1(COC(OC1)(C)C)NC(C)=O | C29H32FNO4S
